US07923570B2
A mixture of 9.54 g of (2S,3aS,7aS)-2-carboxyperhydroindole benzyl ester, 7.26 g of N-((S)-1-carbetoxybutyl)-(S)-alanine and 12.7 g of O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate in 225 ml of acetonitrile is stirred at room temperature for 30 min, then 560 ml of brine is added. The product is extracted twice with 400 ml of ethyl acetate, combined extracts are washed first with 800 ml of water, acidified with concentrated hydrochloric acid and then with 1.5 l of water. Organic phase is dried over anhydrous sodium sulphate and evaporated at 40° C. in vacuo to yield 13.5 g (88%) of benzyl (2S,3aS,7aS)-((2-(1-(ethoxycarbonyl)-(S)-butylamino)-(S)-propionyl)octahydroindole-2-carboxylate (benzyl ester of perindopril).

reactant | N-((S)-1-carbetoxybutyl)-(S)-alanine | 7.26 g | C(=O)(OCC)[C@H](CCC)N[C@@H](C)C(=O)O | C10H19NO4
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 12.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 225 ml | C(C)#N | C2H3N
solvent | brine | 560 ml | [Cl-].[Na+].O
product | (2-(1-(ethoxycarbonyl)-(S)-butylamino)-(S)-propionyl)octahydroindole-2-carboxylate | C(C)OC(=O)[C@H](CCC)N[C@H](C(=O)OC(=O)C1NC2CCCCC2C1)C | C19H32N2O5
